US06608217B2
A three-necked 50-ml flask (equipped with a reflux condenser, a thermometer, and a CO introducing pipe connected with a balloon charged with carbon monoxide gas) was charged with 1.0 g (2.4 mmol) of trifluoromethanesulfonic acid 2,2-bis(fluoromethyl)-6-(trifluoromethyl) -2 H- 1-benzopyran-4-yl ester, 0.95 g (9.7 mmol) of potassium acetate, and 10 ml of N,N-dimethylacetamide. Under stirring of the mixture, predetermined amounts of reagents were added, as shown in Table. Then, the reaction was conducted under conditions shown in Table. After that, the reaction mixture was subjected to the same post-treatments as those of Example 5. As a result, 2,2-bis(fluoromethyl)-6-(trifluoromethyl)-2 H- 1-benzopyran-4-carboxylic acid was obtained, as shown by yield in Table.

reactant | carbon monoxide | [C]=O | CO
reactant | trifluoromethanesulfonic acid 2,2-bis(fluoromethyl)-6-(trifluoromethyl) -2 H- 1-benzopyran-4-yl ester | 2.4 mmol, 1.0 g | FCC1(OC2=C(C(=C1)OS(=O)(=O)C(F)(F)F)C=C(C=C2)C(F)(F)F)CF | C13H8F8O4S
reactant | potassium acetate | 9.7 mmol, 0.95 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 2,2-bis(fluoromethyl)-6-(trifluoromethyl)-2 H- 1-benzopyran-4-carboxylic acid | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)C(F)(F)F)CF | C13H9F5O3
